US04754053
Preparation of Bis(2-ethyl-1-hexyl) Tetrabromophthalate
Tetrabromophthalic anhydride (1391.1 grams; 3.0 moles), 2-ethyl-1-hexanol (1171.8 grams; 9.0 moles) and titanium (IV) isopropoxide (7 ml.; 0.5 volume percent on tetrabromophthalic anhydride) were charged into a 3,000 ml. reaction flask maintained under a nitrogen atmosphere. The reaction flask was fitted with a mechanical stirrer. thermometer. nitrogen inlet tube, and a Dean-Stark water trap connected to a Friedrich condensor. The reaction mixture was heated with agitation at a temperature equal or less than about 200° C. for eight hours. The resulting product (2.497 grams) was an amber thick clear liquid having an acidity of 1.4 meq. per 100 grams.

reactant | Tetrabromophthalic anhydride | 3.0 moles, 1391.1 grams | BrC=1C(=C(C(=C2C1C(=O)OC2=O)Br)Br)Br | C8Br4O3
reactant | 2-ethyl-1-hexanol | 9.0 moles, 1171.8 grams | C(C)C(CO)CCCC | C8H18O
reactant | water | O | H2O
catalyst | titanium (IV) isopropoxide | 7 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | Bis(2-ethyl-1-hexyl) Tetrabromophthalate | BrC=1C(=C(C(=C(C1C(=O)OCC(CCCC)CC)C(=O)OCC(CCCC)CC)Br)Br)Br | C24H34Br4O4
